US07915300B2
[1-(6-Fluoro-3-oxo-hexahydro-furo[3,2-b]pyrrole-4-carbonyl)-3-methyl-butyl]-carbamic acid benzyl ester (Example 8.14)
6-Fluoro-3-hydroxy-hexahydro-furo[3,2-b]pyrrole-4-carboxylic acid tert-butyl ester (0.200 g, 0.81 mmol) was dissolved in DCM (4 mL) at 0° C. and TFA (4 mL) added. After stirring at 0-4° C. for 1 h, the solvent was evaporated in vacuo and the residue left under high vacuum for 4 h to afford a brown oil. The residue was dissolved in DMF (5 mL) and WSC.HCl (171 mg, 0.89 mmol), HOBt (137 mg, 1.01 mmol), Cbz-Leu-OH (226 mg, 0.85 mmol) and Et3N (337 μl, 2.43 mmol) added. After stirring at room temperature overnight, the reaction mixture was concentrated in vacuo, dissolved in EtOAc (10 mL), washed with H2O (5 mL) and saturated NaHCO3 solution (5 mL), dried (Na2SO4) and evaporated in vacuo to afford a colourless oil (242 mg; [M+H]+ 395). (1-(6-Fluoro-3-hydroxy-hexahydro-furo[3,2-b]pyrrole-4-carbonyl)-3-methyl-butyl]-carbamic acid benzyl ester (242 mg, 0.62 mmol) was dissolved in dry DCM (8 mL) and Dess-Martin periodinane (261 mg, 0.62 mmol) added. The reaction immediately turned light brown. After stirring at room temperature for 2.5 h, the yellow solution was diluted with DCM (8 mL) and washed with saturated NaHCO3 solution (5 mL), dried (Na2SO4) and evaporated in vacuo to afford a yellow residue. Purification by column chromatography (EtOAc: heptane; 1:2) yielded the title compound as a colourless oil, 147 mg; [M+H]+ 393.

reactant | 6-Fluoro-3-hydroxy-hexahydro-furo[3,2-b]pyrrole-4-carboxylic acid tert-butyl ester | 0.81 mmol, 0.200 g | C(C)(C)(C)OC(=O)N1C2C(C(C1)F)OCC2O | C11H18FNO4
reactant | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | WSC.HCl | 0.89 mmol, 171 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 1.01 mmol, 137 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Cbz-Leu-OH | 0.85 mmol, 226 mg | N([C@@H](CC(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C14H19NO4
reactant | Et3N | 2.43 mmol, 337 μl | CCN(CC)CC | C6H15N
reactant | (1-(6-Fluoro-3-hydroxy-hexahydro-furo[3,2-b]pyrrole-4-carbonyl)-3-methyl-butyl]-carbamic acid benzyl ester | 0.62 mmol, 242 mg | C(C1=CC=CC=C1)OC(NC(CC(C)C)C(=O)N1C2C(C(C1)F)OCC2O)=O | C20H27FN2O5
reactant | Dess-Martin periodinane | 0.62 mmol, 261 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | [1-(6-Fluoro-3-oxo-hexahydro-furo[3,2-b]pyrrole-4-carbonyl)-3-methyl-butyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC(CC(C)C)C(=O)N1C2C(C(C1)F)OCC2=O)=O | C20H25FN2O5
